US05919753
(a) Benzyl hydrogen tetracosanedioate
Toluene-4-sulfonic acid monohydrate (0.05 g, 0.28 mmol) is added to a suspension of tetracosanedioic acid (5.0 g, 80%, 10.03 mmol) in benzene (180 ml). The mixture is heated to 80° C., whereafter benzyl alcohol (1.08 g, 10.03 mmol) in benzene (10 ml) is added dropwise to the resulting solution. The reaction mixture is refluxed for 20 hours and water is removed azeotropically with a Dean Stark trap. The solvent is removed under reduced pressure and the residue washed with petroleum ether. The product is dissolved in refluxing diethyl ether and purified by flash chromatography on a silica column with methylene chloride/methanol (20:1) as eluant to yield the title compound as a white crystalline solid. 13C NMR (75 MHz, CDCl3): δ 24.0, 28.5, 29.7, 30.9, 34.4, 66.2, 128.2, 128.5, 136.0, 174.1, 176.9.

reactant | Toluene-4-sulfonic acid monohydrate | 0.28 mmol, 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tetracosanedioic acid | 10.03 mmol, 5.0 g | C(CCCCCCCCCCCCCCCCCCCCCCC(=O)O)(=O)O | C24H46O4
reactant | benzyl alcohol | 10.03 mmol, 1.08 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 180 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Benzyl hydrogen tetracosanedioate | C(CCCCCCCCCCCCCCCCCCCCCCC(=O)O)(=O)OCC1=CC=CC=C1 | C31H52O4
